datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:32]([H:33])([H:34])[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][C:32]([H:33])([H:34])[H:35],29.928152
[C:0](=[C:1]([O:2][H:5])[H:4])[H:3].[O:6][O:7]>>[C:0](#[C:1][O:2][H:5])[H:3].[H:4][O:6][O:7],15.4808
[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8]#[C:9][H:16])[H:11])[H:10]>>[c:0]1([H:10])[c:1]([H:11])[c:2]2[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]2[c:8][c:9]1[H:16],22.82372
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[N:15]([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][N:15]([H:16])[H:17],40.04088
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7].[H:9][O:16][H:17],-8.029096
[H:3][H:4].[O:0]=[C:1]=[O:2]>>[O:0]([C:1](=[O:2])[H:4])[H:3],309.198
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],4.14216
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20])[H:7])[H:6],32.5097
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11]=[C:12]=[O:13]>>[C:0]([H:3])([H:4])([H:5])[O:11][C:12]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])=[O:13],493.712
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[H:31])[H:30])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:28])[H:29])[H:30])([C:27]([H:32])([H:33])[H:34])[H:31])[H:12],52.049
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([C:33]([C:34]([H:44])([H:45])[H:46])[c:35]1[c:36]([H:47])[c:37]([H:48])[c:38]([H:49])[c:39]([H:50])[c:40]1[H:51])([H:41])([H:42])[H:43]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:33]([C:32]([H:41])([H:42])[H:43])([C:34]([H:44])([H:45])[H:46])[c:35]1[c:36]([H:47])[c:37]([H:48])[c:38]([H:49])[c:39]([H:50])[c:40]1[H:51])([H:16])([H:17])[H:18],45.8148
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1]1([H:15])[C:2]([H:16])([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:12])([H:13])[H:14],26.0501
[C:0]([N:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4]>>[C:0](=[N:1][H:5])([H:3])[H:4].[C:2]([H:6])([H:7])[H:8],156.728456
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[S:10]([H:11])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([O:3][H:11])[S:10][H:12])([H:4])([H:5])[H:6],157.988
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:8])([H:6])[H:7],-1.00416
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][C:30]([H:31])([H:32])[H:33],36.46356
